* SPICE netlist generated by Yosys 0.47+42 (git sha1 6d4f056a3, g++ 11.4.0-1ubuntu1~22.04 -fPIC -O3)

X0 a y sky130_fd_sc_hd__clkinv_1
V0 VGND VNB DC 0
V1 VPB VPWR DC 0

************************
* end of SPICE netlist *
************************

